US07179823B1
Sodium borohydride (0.25 g) was added to a mixture of 4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzaldehyde (3.50 g), methanol (5 ml), and tetrahydrofuran (25 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. After the reaction mixture was concentrated under reduced pressure, diluted hydrochloric acid was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and 4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzyl alcohol (3.41 g, yield: 97%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 83–84° C.

reactant | Sodium borohydride | 0.25 g | [BH4-].[Na+]
reactant | 4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzaldehyde | 3.50 g | CC1=NN(C=C1COC1=CC=C(C=O)C=C1)C1=NC=CC=C1 | C17H15N3O2
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzyl alcohol | 3.41 g, yield: 97% | CC1=NN(C=C1COC1=CC=C(CO)C=C1)C1=NC=CC=C1 | C17H17N3O2
